US08492414B2
5-Bromomethyl-3-(4-chlorophenyl)-[1,2,4]thiadiazole: (V-a)
To a solution of [3-(4-chlorophenyl)-[1,2,4]thiadiazol-5-yl]-methanol (0.18 g, 0.80 mmol) in toluene (10 ml) was added PBr3 (0.11 ml, 1.19 mmol) and the resulting reaction mixture was refluxed at 120° C. for 15 min. After the completion of the reaction (TLC monitoring), the reaction mixture was cooled to 0° C., added water (50 ml) and extracted with ethyl acetate (3×50 ml). The combined organics was washed with saturated NaHCO3 solution, dried over Na2SO4, filtered and concentrated under vacuum. The crude residue was purified over silica gel (100-200 M, 10% EtOAc-Hexane) to get the desired product (0.08 g, 35%).

reactant | [3-(4-chlorophenyl)-[1,2,4]thiadiazol-5-yl]-methanol | 0.80 mmol, 0.18 g | ClC1=CC=C(C=C1)C1=NSC(=N1)CO | C9H7ClN2OS
reactant | PBr3 | 1.19 mmol, 0.11 ml | P(Br)(Br)Br | Br3P
reactant | water | 50 ml | O | H2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Bromomethyl-3-(4-chlorophenyl)-[1,2,4]thiadiazole | 0.08 g, 35% | BrCC1=NC(=NS1)C1=CC=C(C=C1)Cl | C9H6BrClN2S
